US04247700
2-(1-Piperidylmethyl)propenenitrile
Cyanoacetic acid (51 g., 6 mole) was dissolved in 150 ml. of dioxane, the solution cooled to 5° C. and piperidine (53 g., 0.6 mole) dripped in while maintaining the temperature at 10°-15° C. Then, 37% aqueous formaldehyde (109.5 g., 1.35 mole) was slowly added at 0°-10° C. After two hours, the ice bath was removed and the mixture stirred overnight at 20°-25° C. It was then stripped at 15 mm. pressure and bath temperature of 48° C. The residue was chilled, mixed with 100 ml. of ether, saturated with sodium chloride and the ether layer separated. This extract was washed with two 25 ml. portions of cold 5% aqueous potassium carbonate and finally with 10 ml. of ice water. The ether solution was dried over anhydrous magnesium sulfate, filtered, stripped and fractionated using a Vigreux column. The fraction boiling at 86°-88° C./2 mm. was of practically analytical quality, 40.8 g., Rf 0.66 on silica gel using chloroform-methyl alcohol (90:10) development. This is, however, a known compound.

reactant | Cyanoacetic acid | 6 mole, 51 g | C(#N)CC(=O)O | C3H3NO2
reactant | piperidine | 0.6 mole, 53 g | N1CCCCC1 | C5H11N
reactant | formaldehyde | 1.35 mole, 109.5 g | C=O | CH2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(1-Piperidylmethyl)propenenitrile | N1(CCCCC1)CC(C#N)=C | C9H14N2
